### ISSUE TITLE
CRITICAL: erdos-394 axiom selfridge_n_10 is FALSE — module is logically inconsistent (kernel derives False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41106]
## Integrity Issue — CRITICAL (inconsistent axiom)

**Proof**: erdos-394 (Divisibility by Consecutive Integer Products)
**Problem**: The axiom `selfridge_n_10 : strict_decrease_property 10` is **false**, so `Proofs/Erdos394Problem.lean` is logically inconsistent — `False` is provable in the kernel, and any file importing this module inherits the contradiction.

## Root cause

```lean
noncomputable def t (k n : ℕ) : ℕ :=
  if h : k ≥ 1 ∧ n ≥ 1 then Nat.find (t_exists k n h.1 h.2) else 0   -- k=0 → junk value 0

def strict_decrease_property (n : ℕ) : Prop :=
  ∀ k : ℕ, 1 ≤ k → k < n → t k n.factorial + 1 < t (k - 1) n.factorial

axiom selfridge_n_10 : strict_decrease_property 10
```

The property's range is `1 ≤ k < n`. At the boundary **k = 1** it asserts:
```
t 1 (10!) + 1 < t (1-1) (10!)  =  t 1 (10!) + 1 < t 0 (10!)
```
But `t 0 (10!) = 0` (the `k ≥ 1` guard fails, so `t` returns the junk `0`), while `t 1 (10!) ≥ 1`. So the axiom claims `(≥1) + 1 < 0`, impossible in ℕ. Hence `strict_decrease_property 10` is unsatisfiable and the axiom is false for **every** n ≥ 2, not just 10.

## Verification (kernel-confirmed)

A scratch module importing `Proofs.Erdos394Problem` proved `False`:
```lean
theorem selfridge_is_inconsistent : False := by
  have h := selfridge_n_10 1 (le_refl 1) (by norm_num)
  have h0 : t (1 - 1) (Nat.factorial 10) = 0 := by norm_num; unfold t; simp
  rw [h0] at h; omega
```
`lake env lean` elaborated with exit 0; `#print axioms selfridge_is_inconsistent` →
`[propext, Classical.choice, selfridge_n_10, t_exists, Quot.sound]`. Confirmed inconsistent.

## Recommended Fix

The intended Selfridge result compares `t_k` against `t_{k-1}` only where both are meaningful (`k ≥ 2`, or `t_0` defined as the least m with `n ∣ 1`, i.e. 1). Options:
- Restrict the property to `2 ≤ k < n` (so `t (k-1)` never hits `t 0`), **or**
- Redefine `t 0 n` sensibly (empty product = 1 ⇒ `t 0 n = 1`) so the k=1 case reads `t 1 (n!) + 1 < 1`, which is still false — so restricting the range is the real fix, **and/or**
- Downgrade `selfridge_n_10` from an `axiom` to a stated-but-unproven `def`/conjecture, since as written it is false.

Until fixed, this file must not be presented as consistent; badge/status currently `axiom`/`axiomatized`, but the axiom set is contradictory.

---
Discovered during gallery integrity audit (reserve-mode re-serve of erdos-394). Same detector as erdos-459/452: instantiate a bound/order axiom at the special-cased (junk) input of a concrete definition.
